US09388161B2
Step 4. (S)-1-(5-(7H-purin-2-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone
A 100-mL, round-bottom flask was charged with 1-((S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.150 g, 0.29 mmol), HCl (6 M aqueous solution, 3 mL) and methanol (20 mL). The resulting solution stirred overnight at 40° C. After cooling to room temperature, the pH of the reaction mixture was adjusted to 7-8 with saturated aqueous sodium carbonate solution. The resulting mixture was concentrated to remove the methanol and ethyl acetate was added. The aqueous layer was separated and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by preparative-HPLC with the following conditions (Waters I): Column, SunFire Prep C18, 19×150 mm; mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (37% acetonitrile up to 58% in 10 min, flow rate: 20 mL/min); Detector, UV 220&254 nm. This afforded (S)-1-(5-(7H-purin-2-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.030 g, 24%) as a yellow solid. 1H NMR (300 MHz, CD3OD) δ ppm 0.86-1.00 (m, 4H), 1.16 (d, J=6.30 Hz, 3H), 1.21-1.49 (m, 1H), 2.18-2.47 (m, 5H), 2.63-2.72 (m, 1H), 3.52-3.59 (m, 1H), 4.72-4.80 (m, 1H), 7.19-7.30 (m, 1H), 7.56 (d, J=8.40 Hz, 1H), 7.60 (s, 1H), 7.99 (s, 1H), 8.41 (s, 1H), 8.79 (s, 1H). MS (ESI, pos. ion) m/z 430 [M+H]+.

reactant | 1-((S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.29 mmol, 0.150 g | C1(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC=C2N(C=NC2=N1)C1OCCCC1 | C28H31N7O3
reactant | HCl | 6 M, 3 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (S)-1-(5-(7H-purin-2-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | N1=C(N=C2N=CNC2=C1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CC1)C(C)=O)C | C23H23N7O2
